US07008940B1
6,7-Dimethyl-5-methoxy-1,3-dihydro-2H-indole-2-one
To a solution of 6,7-dimethyl-5-methoxy-3(methylthio)-1,3-dihydro-2H-indole-2-one (30 g, 126 mmol) in dichloromethane (600 mL) were added triphenylphosphine (40 g, 153 mmol) and toluenesulfonic acid monohydrate (29 g, 153 mmol) at room temperature, and the mixture was stirred for 3 hours. The reaction solution was poured into cool water, and the precipitated crystals were filtered. The crystals were washed with dichloromethane and water to obtain 17.5 g of the title compound.

reactant | 6,7-dimethyl-5-methoxy-3(methylthio)-1,3-dihydro-2H-indole-2-one | 126 mmol, 30 g | CC1=C(C=C2C(C(NC2=C1C)=O)SC)OC | C12H15NO2S
reactant | triphenylphosphine | 153 mmol, 40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluenesulfonic acid monohydrate | 153 mmol, 29 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 6,7-Dimethyl-5-methoxy-1,3-dihydro-2H-indole-2-one | 17.5 g, Yield 72% | CC1=C(C=C2CC(NC2=C1C)=O)OC | C11H13NO2
